US04182881
A. N-[Dichlorophosphinyl]-3-trifluoromethylbenzamide
A suspension of 15 g (0.08 mole) of 3-trifluoromethylbenzamide, 16.5 g (0.08 mole) of phosphorus pentachloride and 150 ml of AR carbon tetrachloride was heated at 65°-70° until the HCl gas evolution nearly stops, ca. 30 min. The solution was cooled to 30° and 3.8 g (0.08 mole) of 97% formic acid added dropwise. Stirring was continued for 30 min., then the precipitate was collected, washed with AR carbon tetrachloride and air-dried to give 14 g, m.p. softens 112°, melts 114°-116°.

reactant | 3-trifluoromethylbenzamide | 0.08 mole, 15 g | FC(C=1C=C(C(=O)N)C=CC1)(F)F | C8H6F3NO
reactant | phosphorus pentachloride | 0.08 mole, 16.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.08 mole, 3.8 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-3-trifluoromethylbenzamide | ClP(=O)(NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl | C8H5Cl2F3NO2P
